US07465803B2
B) Synthesis of 2-acetyloxybenzoic acid 6-(chloromethyl)-2-methylpyridinyl ester
To a solution of acetylsalicylic acid (1.6 g, 8.88 mmoles) in N,N′-dimethylformamide (20 ml) and under stirring sodium ethylate (0.64 g, 8.88 mmoles) is added. After 30 minutes the obtained solution is added to a solution of 2,6-bis-(chloromethyl)pyridine (4.72 g, 26.81 mmoles) in N,N′-dimethylformamide (20 ml). The solution is left at room temperature for 7 days, under stirring, then it is diluted with ethyl ether and washed with water. The separated organic phases are anhydrified with sodium sulphate and the solvent is evaporated at a reduced pressure. The reaction raw product is purified by chromatography on silica gel eluting with n-hexane/ethyl acetate 7/3. 1.7 g of the product as yellow oil are obtained.

reactant | acetylsalicylic acid | 8.88 mmoles, 1.6 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
reactant | 2,6-bis-(chloromethyl)pyridine | 26.81 mmoles, 4.72 g | ClCC1=NC(=CC=C1)CCl | C7H7Cl2N
solvent | N,N′-dimethylformamide | 20 ml | CN(C)C=O | C3H7NO
solvent | N,N′-dimethylformamide | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-acetyloxybenzoic acid 6-(chloromethyl)-2-methylpyridinyl ester | 1.7 g | ClCC1=CC=C(C(=N1)C)OC(C1=C(C=CC=C1)OC(C)=O)=O | C16H14ClNO4
